US06387919B1
A mixture of 3.0 g (20 mmol) of 3-nitroiodobenzene, 3.5 mL (25 mmol) of TEA, 0.045 g (0.20 mmol) of palladium(II) acetate and 2.77 g (25.0 mmol) of 4-vinylpyridine was suspended in 4 mL of dry acetonitrile in a pyrex sealed tube and heated to 100° C. for 48 h. The mixture was cooled to rt and was quenched with 200 mL of 10% hydrochloric acid. The resulting yellow solid was isolated by filtration and partitioned between 250 mL of EtOAc and 250 mL of 1 N aqueous sodium hydroxide. The organic phase was dried over MgSO4 and concentrated to give 3.0 g (66%) of 4-[2-(3-nitrophenyl)ethenyl]-pyridine as a yellow solid: 1H NMR (DMSO-d6): δ 3.0-4.6 (br s, 1H), 7.71-7.78 (m, 2H), 8.07 (d, J=15.8 Hz, 1H), 8.13-8.16 (m, 3H), 8.24 (d, J=8.0 Hz, 1H), 8.56 (s, 1H), 8,84 (d, J=5.7 Hz, 2H); ESI−MS m/z 227 (M+1)+. A portion (1.3 g, 7.1 mmol) of this solid was dissolved in 100 mL of EtOAc, and 0.5 g of 10% palladium on charcoal was added. The mixture was hydrogenated on a Parr apparatus at 40 psi for 1.5 h. Another 0.5 g batch of 10% palladium on charcoal was added and the mixture was subjected to further hydrogenation for 1 h. The palladium catalyst was removed by filtration through a pad of celite, and the filtrate was concentrated to give 1.13 g (100%) of 3-(4-pyridinyl)ethylaniline: 1H NMR (DMSO-d6): δ 2.69 (m, 2H), 2.80 (m, 2H), 4.9 (bs, 2H), 6.33 (d, J=7.7 Hz, 2H), 6.38 (s, 1H), 6.86 (t, J=7.7 Hz, 1H), 7.20 (d, J=5.8 Hz, 2H), 8.41 (d, J=5.8 Hz, 2H). Conversion of 3-[2-(4-pyridinyl)ethyl]-aniline to 4-(2-pyridin-4-yl-ethyl)-1H-indole-2,3-dione was accomplished according to Procedure A in 24% overall yield: 1H NMR (DMSO-d6): δ 2.80 (m, 2H), 3.10 (m, 2H), 6.70 (d, J=8.0 Hz, 1H), 6.81 (d, J=8.0 Hz, 1H), 7.24 (m, 2H), 7.40 (t, J=8.0 Hz, 1H), 8.42 (bs, 2H), 11.00 (s, 1H). Conversion of 4-(2-pyridin-4-ylethyl)-1H-indole-2,3-dione to the title compound was accomplished according to Procedure G in 40% overall yield: 1H NMR (DMSO-d6): δ 2.98 (t, J=7.9 Hz, 2H), 3.30 (m, 2H, underneath water peak), 6.78 (d, J=7.7 Hz, 1H), 6.88 (d, J=7.6 Hz, 1H), 7.17 (t, J=7.6 Hz, 1H), 7.25 (s, 2H), 7.29 (d, J=6.0 Hz, 2H), 7.37 (d, J=8.8 Hz, 2H), 7.66 (d, J=8.8 Hz, 2H), 8.47 (d, J=6.0 Hz, 2H), 11.13 (s, 1H), 12.98 (s, 1H); APCI−MS m/z 420 (M−1)−. Anal. Calcd for C21H19N5O3S.0.15 HCl: C, 55.93, H, 4.43; N, 15.53; S, 7.11. Found C, 56.05, H, 4.36; N, 15.38; S, 7.18.

reactant | 3-nitroiodobenzene | 20 mmol, 3.0 g | [N+](=O)([O-])C=1C=C(C=CC1)I | C6H4INO2
reactant | 4-vinylpyridine | 25.0 mmol, 2.77 g | C(=C)C1=CC=NC=C1 | C7H7N
solvent | acetonitrile | 4 mL | C(C)#N | C2H3N
catalyst | palladium(II) acetate | 0.20 mmol, 0.045 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 4-[2-(3-nitrophenyl)ethenyl]-pyridine | 3.0 g, 66% | [N+](=O)([O-])C=1C=C(C=CC1)C=CC1=CC=NC=C1 | C13H10N2O2
